US07528274B2
Synthesis of N-[2-(terf-Butylcarbamylthio)benzoyl]-β-alaninamide
To a well stirred mixture of N-(2-mercaptobenzoyl)-β-alaninamide (0.45 g, 2.0 mmol) in 8 ml DMF was added tert-butyl isocyanate (3.0 mmol). The reaction mixture was stirred for 8-10 h at room temp. After completion of the reaction, all of the DMF was removed in vacuo and the residue was treated with ethyl ether. The white precipitate that formed was washed with water, dried in vacuo/CaCl2 and crystallized from acetonitrile. Yield: 89%. 1H NMR (DMSO-d6): 1.30(s, 9H, 3CH3), 2.38(t, 2H, CH2), 3.40(q, 2H, CH2), 6.86(brs, 1H, NH2), 7.30-7.60(m, 5H, Ar—H, NH2), 8.06(s, 1H, NH), 8.26(t, 1H, NH).

reactant | N-(2-mercaptobenzoyl)-β-alaninamide | 2.0 mmol, 0.45 g | SC1=C(C(=O)NC(CCN)=O)C=CC=C1 | C10H12N2O2S
reactant | tert-butyl isocyanate | 3.0 mmol | C(C)(C)(C)N=C=O | C5H9NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | N-[2-(terf-Butylcarbamylthio)benzoyl]-β-alaninamide | Yield: 89% | C(C)(C)(C)NC(=O)SC1=C(C(=O)NC(CCN)=O)C=CC=C1 | C15H21N3O3S
